* Z:\home\lukas\work\KiCad8\lmwb_LED_CC_Driver\LED_CC_Driver\Spice\cc_driver_led.asc
V1 Vcc 0 24
D1 Vcc N001 NSCW100
D2 N002 C NSCW100
Q1 C B E 0 2N3904
R2 Vcc B 10k
D3 B N005 1N4148
D4 N005 N006 1N4148
R3 E 0 30
D5 N006 0 1N4148
D6 N001 N002 NSCW100
D7 Vcc N003 NSCW100
D8 N004 C NSCW100
D9 N003 N004 NSCW100
.model D D
.lib C:\users\lukas\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\lukas\AppData\Local\LTspice\lib\cmp\standard.bjt
* StromSenke
* .tran 100m
.dc V1 24 5 1
* Nicht lineare Last
.backanno
.end
