* C:\users\lukas\Desktop\Link to work\git\LMWB\LED_CC_Driver\Spice\cc_driver_led.asc
V1 Vcc 0 24
D1 Vcc N001 NSCW100
D2 N002 X2 NSCW100
Q1 X2 N005 N007 0 2N3904
R2 Vcc N005 10k
D3 N005 N008 1N4148
D4 N008 N009 1N4148
R3 N007 0 100
D5 N009 0 1N4148
D6 N001 N002 NSCW100
D7 Vcc N003 NSCW100
D8 N004 X2 NSCW100
D9 N003 N004 NSCW100
D10 0 N006 UMZ5_1N
.model D D
.lib C:\users\lukas\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\lukas\AppData\Local\LTspice\lib\cmp\standard.bjt
* Current Sink
* .tran 100m
.dc V1 24 5 1
.backanno
.end
